USRE039679E1
The 4-Bromo-3-chloro-phenol (24 mmol, 5 g) in anhydrous THF (50 mL) was added to a stirred solution of NaH (60%) in mineral oil, 120 mmol, 4.8 g) in THF (100 mL) and DMF (42 mL) under N2 at room temperature. This solution stirred for 30 minutes. The iodethane (240 mmol, 19.2 mL) was then added. The solution was stirred and was refluxed overnight. The reaction was cooled and quenched with 1 N HCl (150 mL), extracted into CH2Cl2 (2×150 mL), dried over MgSO4, concentrated in vacuo, and distilled under vacuum yielding 1-bromo-2-chloro-4-ethoxybenzene as a brown oil (4.59 g, 81%). 1H NMR (CDCl3, 300 MHz): δ7.42 (1H, d, J 8.7 Hz), 6.96 (1H, d, J 2.9 Hz), 6.64 (1H, dd, J 8.8 and 2.5 Hz), 3.95 (2H, q, J 7.0 Hz), 1.39 (3H, t, J 7.0 Hz.)

reactant | 4-Bromo-3-chloro-phenol | 24 mmol, 5 g | BrC1=C(C=C(C=C1)O)Cl | C6H4BrClO
reactant | NaH | [H-].[Na+]
reactant | DMF | 42 mL | CN(C)C=O | C3H7NO
reactant | iodethane | 240 mmol, 19.2 mL | ICC | C2H5I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-chloro-4-ethoxybenzene | 4.59 g, 81% | BrC1=C(C=C(C=C1)OCC)Cl | C8H8BrClO
